US07858623B2
1-Benzyl-N-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-yl)-2-oxo-1,2-dihydropyrazolo[1,5-a]pyridine-3-carboxamide:
A mixture of HATU (760 mg, 2.0 mmol), crude 1-benzyl-2-oxo-1,2-dihydropyrazolo[1,5-a]pyridine-3-carboxylic acid (268 mg, 1.0 mmol), 5-(7-methoxyquinolin-4-yloxy)pyridin-2-amine (220 mg, 1.0 mmol), and triethylamine (2000 μl, 14 mmol) in DMF (3 mL) plus CHCL3 (3 mL) was stirred at 60° C. for 4 days. Then, the mixture was diluted with EtOAc (10 mL) and H2O (5 mL). The organic layer was washed with NaOH (1 N), H2O, NaHCO3, and dried over Na2SO4. The organic residue was purified on silica and further purified by trituration with EtOAc in ether (5%), resulting a light green powder. Calc'd for C30H23N5O4: 517; MS (ESI pos. ion) m/z: 518

reactant | HATU | 2.0 mmol, 760 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-benzyl-2-oxo-1,2-dihydropyrazolo[1,5-a]pyridine-3-carboxylic acid | 1.0 mmol, 268 mg | C(C1=CC=CC=C1)N1C(C(=C2N1C=CC=C2)C(=O)O)=O | C15H12N2O3
reactant | 5-(7-methoxyquinolin-4-yloxy)pyridin-2-amine | 1.0 mmol, 220 mg | COC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)N | C15H13N3O2
reactant | triethylamine | 14 mmol, 2000 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 5 mL | O | H2O
product | 1-Benzyl-N-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-yl)-2-oxo-1,2-dihydropyrazolo[1,5-a]pyridine-3-carboxamide | C(C1=CC=CC=C1)N1C(C(=C2N1C=CC=C2)C(=O)NC2=NC=C(C=C2)OC2=CC=NC1=CC(=CC=C21)OC)=O | C30H23N5O4
